US07514566B2
tert-Butyl 4-(tetrahydrofuran-2-yl)thiazol-2-ylcarbamate
The title compound was prepared by treating 4-(tetrahydrofuran-2-yl)thiazol-2-amine with di-tert-butyl dicarbonate in dioxane and pyridine at room temperature for 18 hours.

reactant | 4-(tetrahydrofuran-2-yl)thiazol-2-amine | O1C(CCC1)C=1N=C(SC1)N | C7H10N2OS
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | tert-Butyl 4-(tetrahydrofuran-2-yl)thiazol-2-ylcarbamate | O1C(CCC1)C=1N=C(SC1)NC(OC(C)(C)C)=O | C12H18N2O3S
